US07030267B2
To a solution of 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid methyl ester (10.9 g, 40.2 mmol) in MeOH (320 mL) was added a solution of lithium hydroxide (LiOH) (4.2 g, 100 mmol) in water (98 mL). The reaction mixture was heated to reflux for 3 hours and cooled to room temperature. Excess of solvent was removed and the residue was dissolved in water (100 mL). The aqueous solution was washed with ether, acidified to pH=3 with 2N HCl and extracted with EtOAc (2×150 mL). The combined organic phase was washed with brine, dried (Na2SO4) and evaporation of the solvent provided 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid (9.0 g, 87%) as a colorless oil: 1H NMR (300 MHz, CD3OD) δ 0.72 (m, 1H), 0.99 (d, J=6.2 Hz, 3H), 1.06 (d, J=6.2 Hz, 3H), 1.28–1.36 (m, 3H), 1.42 (s, 9H), 3.23 (d, J=14.3 Hz, 1H), 3.54 (d, J=14.3 Hz, 1H); 13C NMR (75 MHz, CD3OD) δ 20.0, 23.0, 23.3, 28.8, 30.2, 37.6, 40.8, 80.2, 158.1, 178.5; MS (APCI) m/z 258 [M+H]+.

reactant | 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid methyl ester | 40.2 mmol, 10.9 g | COC(=O)C1(C(C1)C(C)C)CNC(=O)OC(C)(C)C | C14H25NO4
reactant | lithium hydroxide | 100 mmol, 4.2 g | [OH-].[Li+]
solvent | MeOH | 320 mL | CO | CH4O
solvent | water | 98 mL | O | H2O
product | 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid | 9.0 g, 87% | C(C)(C)(C)OC(=O)NCC1(C(C1)C(C)C)C(=O)O | C13H23NO4
